US07538134B2
2,6-dichloro-4-cyanobenzenediazonium tetrafluoroborate
To a solution of 4-amino-3,5-dichlorobenzonitrile (2.00 g, 10.63 mmol) in acetonitrile (12 ml) was added dropwise tetrafluoroboric acid (2.80 ml, 21.27 mmol). After stirring for 10 min, isoamyl nitrite (1.50 ml, 10.63 mmol) was added and the reaction mixture was cooled to 0° C. After a further 10 min, diethyl ether (50 ml) was added and the resulting precipitate was collected by filtration and dried to give the titled compound (1.9 g).

reactant | 4-amino-3,5-dichlorobenzonitrile | 10.63 mmol, 2.00 g | NC1=C(C=C(C#N)C=C1Cl)Cl | C7H4Cl2N2
reactant | tetrafluoroboric acid | 21.27 mmol, 2.80 ml | F[B-](F)(F)F.[H+]
reactant | isoamyl nitrite | 10.63 mmol, 1.50 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetonitrile | 12 ml | C(C)#N | C2H3N
product | 2,6-dichloro-4-cyanobenzenediazonium tetrafluoroborate | 1.9 g | F[B-](F)(F)F.ClC1=C(C(=CC(=C1)C#N)Cl)[N+]#N | InChI=1S/C7H2Cl2N3.BF4/c8-5-1-4(3-10)2-6(9)7(5)12-11;2-1(3,4)5/h1-2H;/q+1;-1
